US05098912
Synthesis of ethyl 1-tert-butoxycarbonylaminocyclopropanecarboxylate (P-12)
5.0 g of known monoethyl 1, 1-cyclopropanedicarboxylate, 4.5 ml of triethylamine and 6.9 ml of diphenyl phosphorazidate (DPPA) were added to 80 ml of tert-butyl alcohol and the mixture was refluxed at 90° to 100° C. for 4 h. After distilling the solvent, the residue was dissolved in ethyl acetate and washed with 5% citric acid, saturated aqueous sodium carbonate solution and saturated aqueous sodium chloride solution and then dried. The solvent was distilled off to obtain 5.7 g of the desired compound (P-12) in the form of a light yellow oil.

reactant | monoethyl 1, 1-cyclopropanedicarboxylate | 5.0 g | C1(CC1)(C(=O)OCC)C(=O)[O-]
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorazidate | 6.9 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | tert-butyl alcohol | 80 ml | C(C)(C)(C)O | C4H10O
product | ethyl 1-tert-butoxycarbonylaminocyclopropanecarboxylate | 5.7 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)OCC | C11H19NO4
